US04196127
A mixture of 1,4-diethoxybenzene (24.9 g 0.150 mole) and 1,1-dichloromethyl methyl ether (18 g., 0.157 mole) in methylene chloride (80 ml.) was added with stirring during 20 minutes to a solution of stannic chloride (39 g., 0.150 mole) in methylene chloride (150 ml.) at approximately 0° C. The solution was then stirred at this temperature for 5 minutes and quenched by addition of aqueous hydrochloric acid (6 N., 100 ml.) which was added rapidly. The organic phase was separated washed with saturated aqueous sodium bicarbonate, dried over anhydrous magnesium sulfate, filtered, and the solvent removed from the filtrate by evaporation under reduced pressure to yield a crystalline solid (29 g.) m.p. 57°-59° C. Recrystallation (from ether) gave 2,5-Diethoxybenzaldehyde (27.1 g., 0.138 mole, 93%) m.p. 60°-61° I.R.: 1738 cm-1 (aldehyde CO).

reactant | 1,4-diethoxybenzene | 0.150 mole, 24.9 g | C(C)OC1=CC=C(C=C1)OCC | C10H14O2
reactant | 1,1-dichloromethyl methyl ether | 0.157 mole, 18 g | COC(Cl)Cl | C2H4Cl2O
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2,5-Diethoxybenzaldehyde | 0.138 mole, 27.1 g, 93% | C(C)OC1=C(C=O)C=C(C=C1)OCC | C11H14O3
